US06548495B2
(5-Cyanomethyl-4-iodo-2-nitro-phenyl)-carbamic Acid tert.-Butyl Ester
The title compound was prepared via the isocyanate from (5-amino-2-iodo-4-nitro-phenyl)-acetonitrile [prepared from 5-chloro-2-nitro-phenylamine by: i.) iodination with ICl/NaOAc in HOAc at 60° C.; ii.) reaction with ethyl cyanoacetate and KOBut in DMSO at 100° C. for 2 h.; iii.) deacarboxylation with LiCl/H2O in DMSO at 120° C. for 2.5 h] (5.15 g, 17 mmol) and diphosgene (2.05 mL, 17 mmol) in EtOAc (150 mL), followed by treatment with tert.-BuOH (25 mL) in CH2Cl2 (25 mL) according to the general procedure A (method a). Obtained as a yellow solid (4.00 g).

reactant | isocyanate | [N-]=C=O
reactant | (5-amino-2-iodo-4-nitro-phenyl)-acetonitrile | NC=1C(=CC(=C(C1)CC#N)I)[N+](=O)[O-] | C8H6IN3O2
reactant | 5-chloro-2-nitro-phenylamine | ClC=1C=CC(=C(C1)N)[N+](=O)[O-] | C6H5ClN2O2
reactant | ICl NaOAc | ICl.CC(=O)[O-].[Na+]
reactant | ethyl cyanoacetate | C(#N)CC(=O)OCC | C5H7NO2
reactant | LiCl H2O | [Li+].[Cl-].O
reactant | diphosgene | 17 mmol, 2.05 mL | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
solvent | HOAc | CC(=O)O | C2H4O2
solvent | DMSO | CS(=O)C | C2H6OS
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | BuOH | 25 mL | C(CCC)O | C4H10O
product | (5-Cyanomethyl-4-iodo-2-nitro-phenyl)-carbamic Acid tert.-Butyl Ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)CC#N)I)[N+](=O)[O-])=O | C13H14IN3O4
